Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
ankle pain, shortness of breath
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ y/oF who injured her left ankle on vacation 11 
days ago who presented to her PCP complaining of calf pain. She 
had an outpatient ultrasound that showed DVT, and was referred 
to the ___ ED. She endorsed a single episode of shortness of 
breath last night while in bed which prompted CTA in the ED that 
revealed a small segmental pulmonary embolism.  
.
In the ED, vital signs were initially: 98.4 104 129/74 16 99 % 
on room air. She was started on a heparin infusion.  
.
Upon transfer to the floor, vital signs were T- 97.1, BP 
98-122/68-76, HR- 71-83, RR 18, SaO2- 97% on RA.  Patient was 
comfortable in bed.  Denied any shortness of breath, chest pain, 
dizziness, palpitations, or headaches.  Still reported her ankle 
being somewhat tender but was able to ambulate.  No other 
complaints at this time.  
 
Past Medical History:
1. ___ lower lobe FDG avid pulmonary nodule, status-post 
medial  basal segmentectomy ___, revealing a spindle 
cell  neoplasm, most consistent with a mild fibroblastic tumor.  

2. Status-post laparoscopic cholecystectomy ___.  
3. Status-post ___ pleural effusion, pleuritic chest pain, and 
pleural friction rub post cholecystectomy.  
4. History of episodic tachycardia.  
5. Hepatic steatosis.  
6. Recent herpes Zoster.  
7. Elevated cholesterol and triglycerides.  
PSH:  
1. Past surgical history is remarkable for ovarian cyst removal, 
wisdom tooth removal, total abdominal hysterectomy and 
oophorectomy.  
2. status post a ___ lower lobe lobectomy for an inflammatory 
myofibroblastoma of the lung.  
3. She is also status post cholecystectomy ___ years ago
 
Social History:
___
Family History:
No hypercoagulable disorders known, no prior h/o clotting 
disorders. Sister with miscarriages in past
 
Physical Exam:
PHYSICAL EXAMINATION:  
VS: 97.1 122/72 82 18 99% RA  
GEN:The patient is in no distress and appears comfortable  
SKIN:No rashes or skin changes noted  
HEENT:No JVD, neck supple, No lymphadenopathy in cervical,  
posterior, or supraclavicular chains noted.  
CHEST:Lungs are clear without wheeze, rales, or rhonchi.  
CARDIAC: Regular rhythm; no murmurs, rubs, or gallops. No Acc 
P2.  
ABDOMEN: Non-distended, and soft without tenderness  
EXTREMITIES: Trace ___ ankle swelling, no significant calf 
tenderness. ROM inversion/eversion relatively full.  
NEUROLOGIC: Alert and appropriate. CN II-XII grossly intact. 
Strength intact b/l.  

 
Pertinent Results:
___ 04:35PM BLOOD WBC-6.9 RBC-3.70* Hgb-11.3* Hct-33.5* 
MCV-91 MCH-30.7 MCHC-33.8 RDW-13.4 Plt ___
___ 05:10AM BLOOD WBC-8.0 RBC-3.50* Hgb-10.7* Hct-32.0* 
MCV-91 MCH-30.6 MCHC-33.5 RDW-13.4 Plt ___
___ 04:35PM BLOOD Neuts-64.0 ___ Monos-3.3 Eos-2.3 
Baso-0.5
___ 04:35PM BLOOD ___ PTT-21.1* ___
___ 12:30AM BLOOD PTT-83.9*
___ 05:10AM BLOOD ___ PTT-79.0* ___
___ 05:10AM BLOOD Plt ___
___ 04:35PM BLOOD Glucose-141* UreaN-12 Creat-0.7 Na-140 
K-3.8 Cl-105 HCO3-28 AnGap-11
___ 05:10AM BLOOD Glucose-100 UreaN-10 Creat-0.8 Na-142 
K-3.9 Cl-107 HCO3-23 AnGap-16
___ 05:10AM BLOOD Calcium-9.2 Phos-3.7 Mg-1.9

___ (___)-  
IMPRESSION: Deep vein thrombosis in one of the two ___ 
peroneal veins. 

CTA Chest (___)- 
IMPRESSION: Small filling defect within the ___ upper lobe 
subsegmental 
artery consistent with pulmonary embolus. While positive, this 
represents an extremely small thrombus burden of indeterminate 
clinical significance. No other filling defects identified. 

ANKLE X-RAY (___)- WET READ: ___ ankle and foot- no 
fracture or dislocation.    
 
Brief Hospital Course:
# DVT/PE:  
The patient was found to have a DVT and a small segmental PE.  
She was started on a heparin drip (goal PTT of 60-100) and 5mg 
of coumadin.  She did well while in-house.  Did report some mild 
___ ankle swelling but minimal tenderness to palpation.  She 
denied any shortness of breath, chest pain or dizziness.  No 
syncopal events occurred.  She remained hemodynamically stable 
while admitted.  Heparin drip was stopped in the morning and she 
was switched to lovenox 1mg/kg SC BID.  She was instructed on 
how to give the injections and understands the procedure.  Upon 
discharge, she was given scripts for coumadin 5mg daily and also 
five days of lovenox injections.  She will follow-up on ___ 
with her primary care physician's coverage who will check coags 
and send them to ___ clinic for further management.

# Ankle Injury:  
No fracture or dislocation found on ankle x-ray on ___.  Her 
joint exam was significant for tenderness to motion but good 
range of motion.  She has seen orthopaedics which is concerned 
for tendon damage, and has ordered MRI for further evaluation.  
Her MRI was scheduled as an outpatient (on ___ at 7:30pm) and 
the patient already has orthopedics follow-up scheduled for 
___.  
 
Medications on Admission:
Effexor 75mg PO daily  
Questran 4 grams per day taken once per day  
Propranolol ER  
Fenofibrate 45 mg.  
MVI  
B12 1,000mcg tablet PO daily  
 
Discharge Medications:
1. Venlafaxine 75 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. Cholestyramine-Sucrose 4 gram Packet Sig: One (1) Packet PO 
DAILY (Daily).  
3. Propranolol 60 mg Capsule,Sustained Action 24 hr Sig: One (1) 
Capsule,Sustained Action 24 hr PO DAILY (Daily).  
4. Cyanocobalamin 500 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Lorazepam 1 mg Tablet Sig: ___ Tablets PO HS (at bedtime) as 
needed for insomnia.  
6. Multivitamin Tablet Sig: One (1) Tablet PO once a day.  
7. Coumadin 5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
8. Enoxaparin 100 mg/mL Syringe Sig: Ninety (90) mg Subcutaneous 
Q12H (every 12 hours) for 10 doses.
Disp:*10 doses* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Pulmonary embolus, deep vein thrombosis

 
Discharge Condition:
Good.  Vital signs stable.

 
Discharge Instructions:
You were admitted to the hospital after being diagnosed with a 
clot in your leg and lung.  While here, you remained 
asymptomatic.  You were started on a heparin drip to treat the 
clots.  You remained hemodynamically stable and did not 
experience any respiratory distress or chest pain while in the 
hospital.  You were instructed on how to administer lovenox 
shots and were also started on coumadin daily.  Please follow-up 
with ___ clinic regularly to make sure your INR is within 
the goal range of 2.0-3.0.  Upon discharge, you were stable and 
comfortable.

The following changes were made to your medications:
1.  You were started on coumadin 5mg by mouth daily for ___ 
months.  This dose will be adjusted by the ___ clinic as 
needed.
2.  You were started on lovenox injections twice daily.  Please 
take these injections for at least 5 days but the total length 
of time will be determined by the ___ clinic.

If you experience any shortness of breath, chest pain, loss of 
consciousness, fevers, abdominal pain or any other medically 
concerning symptoms, please contact your primary care physician 
or go to the emergency department immediately
 
Followup Instructions:
___